US09422281B2
A reaction vial was charged with (S)-isopropyl 7-bromo-3-methyl-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate (0.02 mmol), 1,2-dichloroethane (0.10 mL), and N,N-diisopropylethylamine (0.25 mL, 0.14 mmol). Methylcarbamic chloride (1.0 M solution in 1,2-dichloroethane, 0.120 mL, 0.120 mmol) was added, and the reaction was heated at 50° C. overnight. N,N-Diisopropylethylamine (0.25 mL, 0.14 mmol) and methylcarbamic chloride (1.0 M solution in 1,2-dichloroethane, 0.120 mL, 0.120 mmol) were added, and the reaction was heated at 80° C. overnight. The reaction was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The aqueous layer was separated and extracted with ethyl acetate and the combined organic layers were concentrated under a stream of nitrogen to afford (S)-isopropyl 7-bromo-3-methyl-4-(methylcarbamoyl)-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate which was used in the next step without purification.

reactant | (S)-isopropyl 7-bromo-3-methyl-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate | 0.02 mmol | BrC1=CC2=C(N[C@H](CN2C(=O)OC(C)C)C)N=C1 | C12H16BrN3O2
reactant | 1,2-dichloroethane | 0.10 mL | ClCCCl | C2H4Cl2
reactant | N,N-diisopropylethylamine | 0.14 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methylcarbamic chloride | 0.120 mmol, 1.0 M, 0.120 mL | CNC(=O)Cl | C2H4ClNO
reactant | N,N-Diisopropylethylamine | 0.14 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylcarbamic chloride | 0.120 mmol, 1.0 M, 0.120 mL | CNC(=O)Cl | C2H4ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-isopropyl 7-bromo-3-methyl-4-(methylcarbamoyl)-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate | BrC1=CC2=C(N([C@H](CN2C(=O)OC(C)C)C)C(NC)=O)N=C1 | C14H19BrN4O3
